US07622480B2
This compound was prepared following the procedure described in example 7, part E, starting with 2 g (6.6 mmol) of 4-(1H-pyrrolo[2,3-b]pyridin-3-yl)-piperidine-1-carboxylic acid tert-butyl ester and 0.94 ml (8 mmol) of 2-chloro-5-(chloromethyl)thiophen. After standard work-up and purification, 2.86 g of 4-[1-(5-chlorothiophen-2-ylmethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-piperidine-1-carboxylic acid tert-butyl ester were obtained.

reactant | 4-(1H-pyrrolo[2,3-b]pyridin-3-yl)-piperidine-1-carboxylic acid tert-butyl ester | 6.6 mmol, 2 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CNC2=NC=CC=C21 | C17H23N3O2
reactant | 2-chloro-5-(chloromethyl)thiophen | 8 mmol, 0.94 ml | ClC=1SC(=CC1)CCl | C5H4Cl2S
product | 4-[1-(5-chlorothiophen-2-ylmethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-piperidine-1-carboxylic acid tert-butyl ester | 2.86 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CN(C2=NC=CC=C21)CC=2SC(=CC2)Cl | C22H26ClN3O2S
